US07897631B2
2-Amino-hex-5-ynoic acid methyl ester hydrochloride (2.53 g, 14.2 mmol) was treated to an Akabori reduction followed by a cyanamide condensation employing conditions previously reported to produce 4-But-3-ynyl-1H-imidazol-2-ylamine hydrochloride (1.17 g, 48%) as a pale yellow oil (Olofson et al., Journal of Organic Chemistry 1997, 62, (23), 7918-7919). 1H NMR (300 MHz, CD3OD) δ 6.52 (s, 1H), δ 2.61 (t, 2H), δ 2.42 (m, 2H), δ 2.27 (t, 1H) ppm; 13C NMR (75 MHz, CD3OD) δ 147.4, 126.2, 109.4, 81.9, 69.9, 23.8, 17.4 ppm; HRMS (ESI) calcd for C7H10N3 (M+) 136.0869. found 136.0865.

reactant | 2-Amino-hex-5-ynoic acid methyl ester hydrochloride | 14.2 mmol, 2.53 g | Cl.COC(C(CCC#C)N)=O
reactant | cyanamide | N#CN | CH2N2
product | 4-But-3-ynyl-1H-imidazol-2-ylamine hydrochloride | 1.17 g, 48% | Cl.C(CC#C)C=1N=C(NC1)N | InChI=1S/C7H9N3.ClH/c1-2-3-4-6-5-9-7(8)10-6;/h1,5H,3-4H2,(H3,8,9,10);1H
